US03957783
To a solution of 500 mg of 4-phenyl-1,2 -dihydrothieno[2,3-d]pyrimidin-2-one in 10 ml of dimethylformamide is added 100 mg of 63 % sodium hydride. After stirring at 60°C for 1 hour, 590 mg of cyclopropylmethyl bromide is added dropwise thereto. The mixture is heated at 120°C for 4 hours, then cooled to room temperature. The reaction mixture is poured into water and extracted with chloroform. The chloroform extracts are washed with water, dried over sodium sulfate, and the solvent is removed under reduced pressure. The residue is chromatographed on silica gel, using chloroform as an eluent. From the first fraction, 2-(cyclopropylmethoxy)-4-phenylthieno[2,3-d]pyrimidine is obtained as crystals having a melting point of 86.5°- 87.5°C. From the second fraction 1-cyclopropylmethyl-4-phenyl-1,2-dihydrothieno[2,3-d]pyrimidin-2-one is obtained as crystals having a melting point of 191° - 191.5°C.

reactant | 4-phenyl-1,2 -dihydrothieno[2,3-d]pyrimidin-2-one | 500 mg | C1(=CC=CC=C1)C=1C2=C(NC(N1)=O)SC=C2 | C12H8N2OS
reactant | sodium hydride | 100 mg | [H-].[Na+]
reactant | cyclopropylmethyl bromide | 590 mg | C1(CC1)CBr | C4H7Br
reactant | water | O | H2O
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 2-(cyclopropylmethoxy)-4-phenylthieno[2,3-d]pyrimidine | C1(CC1)COC=1N=C(C2=C(N1)SC=C2)C2=CC=CC=C2 | C16H14N2OS
